US07622589B2
6A) 4-(2,2,2-Trifluoro-1,1-dimethylethyl)phenyl trifluoromethanesulfonate
To a pyridine (8 ml) and DCM (12 ml) solution of 4-(2,2,2-trifluoro-1,1-dimethylethyl)phenol (1.2 g, 6 mmol), triflic acid anhydride (2.54 g, 9 mmol) and DMAP (12 mg, 0.1 mmol) were added and the mixture was stirred for 3 hours at 0° C. The same procedure as described in Example 2F was purfomed to give the title compound (1.8 g, 89%) as a colorless oil.

reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-(2,2,2-trifluoro-1,1-dimethylethyl)phenol | 6 mmol, 1.2 g | FC(C(C)(C)C1=CC=C(C=C1)O)(F)F | C10H11F3O
reactant | triflic acid anhydride | 9 mmol, 2.54 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | DMAP | 0.1 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | 4-(2,2,2-Trifluoro-1,1-dimethylethyl)phenyl trifluoromethanesulfonate | 1.8 g, 89% | FC(S(=O)(=O)OC1=CC=C(C=C1)C(C(F)(F)F)(C)C)(F)F | C11H10F6O3S
